US07262220B2
b) Methyl 3-{4-amino-2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]phenyl}acrylate
8.5 g (19.3 mmol) of methyl 3-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-nitro-phenyl}acrylate were suspended in 60 ml of a mixture of glacial acetic acid and concentrated hydrochloric acid (10:1) and heated to 70° C. Then 8.85 g (135.3 mmol) of zinc powder were added. After 30 minutes, the mixture was cooled, the solid was filtered off with suction, and the filtrate was concentrated. The residue was taken up in ethyl acetate and washed with a 10% strength sodium bicarbonate solution. The organic phase was dried and concentrated. 7.9 g (100%) of the desired product were obtained.

reactant | methyl 3-{2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]-4-nitro-phenyl}acrylate | 19.3 mmol, 8.5 g | ClC1=C(C(=O)NC(NC2=C(C=CC(=C2)[N+](=O)[O-])C=CC(=O)OC)=O)C=C(C(=C1)F)F | C18H12ClF2N3O6
reactant | hydrochloric acid | Cl | ClH
catalyst | zinc | 135.3 mmol, 8.85 g | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Methyl 3-{4-amino-2-[3-(2-chloro-4,5-difluorobenzoyl)ureido]phenyl}acrylate | 7.9 g, 100% | NC1=CC(=C(C=C1)C=CC(=O)OC)NC(=O)NC(C1=C(C=C(C(=C1)F)F)Cl)=O | C18H14ClF2N3O4
